US08278331B2
To a solution of 2-chloro-4-(5-fluoro-2-methyl-4-nitrophenoxy)pyridine (0.48 g, 1.698 mmol) in ethanol (20 mL) was added Raney Ni (0.4 g). The mixture was stirred under a hydrogen atmosphere (1 atm) overnight at RT. The reaction mixture was filtered through a pad of Celite® and the filtrate was concentrated to obtain the crude 4-(2-chloropyridin-4-yloxy)-2-fluoro-5-methylbenzenamine (assuming a 100% yield).

reactant | 2-chloro-4-(5-fluoro-2-methyl-4-nitrophenoxy)pyridine | 1.698 mmol, 0.48 g | ClC1=NC=CC(=C1)OC1=C(C=C(C(=C1)F)[N+](=O)[O-])C | C12H8ClFN2O3
solvent | ethanol | 20 mL | C(C)O | C2H6O
catalyst | Ni | 0.4 g | [Ni] | Ni
product | 4-(2-chloropyridin-4-yloxy)-2-fluoro-5-methylbenzenamine | 100% yield | ClC1=NC=CC(=C1)OC1=CC(=C(C=C1C)N)F | C12H10ClFN2O
